US07220856B2
Preparation of (3S)-3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic Acid-ethyl Ester
As described for example 213, (3R)-3-[[(1,1-dimethylethoxy)carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic acid, ethyl ester, TFA, triphosgene, NaHCO3 (sat.), and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the title product as a light yellow solid. LC-MS: 489 (M++1). 1H NMR (CDCl3): δ 1.37 (t, 3H), 1.44˜2.02 (m, 5H), 2.12˜2.20 (m, 1H), 3.13 (m, 4H), 3.41 (dd, 1H), 3.67 (m, 4H), 4.35 (m, 2H), 4.42 (m, 1H), 4.74˜4.86 (m, 3H), 6.00 (d, 1H), 6.16 (s, 1H), 7.18 (dd, 1H), 7.62 (d, 1H), 7.73 (d, 1H).

reactant | (3R)-3-[[(1,1-dimethylethoxy)carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic acid, ethyl ester | CC(C)(OC(=O)N[C@H]1C(N(CCCC1)C(=O)OCC)=O)C | C14H24N2O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | (3S)-3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic Acid-ethyl Ester | C(C)OC(=O)N1C([C@H](CCCC1)NC(=O)N1CCN(CC1)C1=CC(=NC2=CC(=CC=C12)Cl)N)=O | C23H29ClN6O4
